US08071595B2
To a stirred solution of 2-methylbut-3-yn-2-ol (20 g, 0.23 mol) in HMDS (42.3 g, 0.261 mol) was added LiClO4 (38.03 g, 0.35 mol) at RT. The reaction mixture was then stirred for additional 30 minutes, diluted with water (100 mL) and then extracted with ether (3×200 mL). The combined ether layers were washed with water (100 mL) and brine (100 mL), dried over Na2SO and filtered. The ether was distilled off at 80° C. to afford trimethyl (2-methylbut-3-yn-2-yloxy)silane (25 g) as an oil.

reactant | 2-methylbut-3-yn-2-ol | 0.23 mol, 20 g | CC(C)(C#C)O | C5H8O
reactant | HMDS | 0.261 mol, 42.3 g | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
solvent | water | 100 mL | O | H2O
product | trimethyl (2-methylbut-3-yn-2-yloxy)silane | 25 g | C[Si](OC(C)(C#C)C)(C)C | C8H16OSi
